US06410584B1
A mixed solution of methyl 4-(2-oxopropyl)-3-nitrobenzoate (3.86 g), reduced iron (9.0 g) and acetic acid (40 ml) is stirred at 90° C. for 24 hours. The solid is removed through filtration, and the filtrate is concentrated under reduced pressure. The resulting residue is purified through silica gel column chromatography (eluent: hexane/ethyl acetate=3/1) to obtain 6-methoxycarbonyl-2-methylindole (0.890 g).

reactant | methyl 4-(2-oxopropyl)-3-nitrobenzoate | 3.86 g | O=C(CC1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-])C | C11H11NO5
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 6-methoxycarbonyl-2-methylindole | 0.890 g | COC(=O)C1=CC=C2C=C(NC2=C1)C | C11H11NO2
